US03983107
1-Phenylpropene-2-sulfonamide
The 1-phenylpropene-2-sulfonyl chloride is added to 200 ml. of concentrated ammonium hydroxide. After 1 hour the crystalline precipitate which has formed is filtered off, and washed sequentially with water and hexane. The crude product so obtained is partitioned between 150 ml. of 1N sodium hydroxide and 50 ml. of ether, giving two clear phases. The ether phase is removed and washed with 50 ml. of water, and then the water wash is added to the original aqueous phase. This combined solution is acidified using concentrated hydrochloric acid, which causes the product to precipitate. It is filtered off, and after drying this affords 10.9g. of 1-phenylpropene-2-sulfonamide, m.p. 138°-139.5°C.

reactant | 1-phenylpropene-2-sulfonyl chloride | C1(=CC=CC=C1)C=C(C)S(=O)(=O)Cl | C9H9ClO2S
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 1-Phenylpropene-2-sulfonamide | C1(=CC=CC=C1)C=C(C)S(=O)(=O)N | C9H11NO2S
